US07427683B2
b) 4-Bromo-2-(4-methyl-piperidin-1-yl)-phenylamine
A flask charged with 1-(5-bromo-2-nitro-phenyl)-4-methyl-piperidine (1.0 g, 3.3 mmol) (as prepared in the previous step), ammonium chloride (1.8 g, 33 mmol), iron powder (0.93 g, 16 mmol), EtOH (12 mL) and water (6 mL) was heated at 80° C. for 1 h. The reaction was filtered though Celite, concentrated and eluted from a 20-g SPE cartridge (silica) with 100% DCM to give 0.80 g (91%) of the title compound as a yellow oil. Mass spectrum (ESI, m/z): Calcd. for C12H17BrN2, 269.1/271.1 (M+H), found 269.1/271.1.

reactant | 1-(5-bromo-2-nitro-phenyl)-4-methyl-piperidine | 3.3 mmol, 1.0 g | BrC=1C=CC(=C(C1)N1CCC(CC1)C)[N+](=O)[O-] | C12H15BrN2O2
reactant | ammonium chloride | 33 mmol, 1.8 g | [Cl-].[NH4+]
reactant | EtOH | 12 mL | CCO | C2H6O
catalyst | iron | 16 mmol, 0.93 g | [Fe] | Fe
solvent | water | 6 mL | O | H2O
product | 4-Bromo-2-(4-methyl-piperidin-1-yl)-phenylamine | 0.80 g, 91% | BrC1=CC(=C(C=C1)N)N1CCC(CC1)C | C12H17BrN2
